US03947569
N-[N-(5-Oxo-L-Prolyl)-L-Histidyl]-L-Tryptophan
A mixture of N-[N-(5-oxo-L-prolyl)-L-histidyl]-L-tryptophan benzyl ester (Ex. 1, 0.300 g, 0.555 mmol) and 5 percent palladium on carbon (0.060 g) in glacial acetic acid (30 ml) is stirred rapidly under an atmosphere of hydrogen for 16 hours at room temperature. The mixture is filtered through diatomaceous earth ("Celite") and the filtrate is concentrated under reduced pressure. The residue is dissolved in methanol (10 ml) and diethyl ether (100 ml) is slowly added with vigorous stirring. The precipitate is collected, dissolved in methanol (10 ml) and diethyl ether (100 ml) is slowly added. The precipitate is collected, dissolved in methanol, treated with charcoal (0.20 g) and filtered through diatomaceous earth ("Celite"). The filtrate is evaporated to yield the title compound as a hard white glass which is used as such in a subsequent step.

reactant | N-[N-(5-oxo-L-prolyl)-L-histidyl]-L-tryptophan benzyl ester | 0.555 mmol, 0.300 g | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC([C@H]1NC(CC1)=O)=O)CC1=CNC=N1)=O)CC1=CNC2=CC=CC=C12)=O | C29H30N6O5
catalyst | palladium on carbon | 0.060 g | [Pd] | Pd
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | N-[N-(5-Oxo-L-Prolyl)-L-Histidyl]-L-Tryptophan | O=C1CC[C@H](N1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C22H24N6O5
